US04507297
Tert-butoxycarbonyl-L-leucine monohydrate (7.47 g) and 1-cinnamylpiperazine (6.06 g) were condensed in the same manner as employed in the preparation of tert-butyl (s)-1-(4-diphenylmethylpiperazine-1-yl carbonyl)-3-methylbutylcarbamate to yield 10.7 g of tert-butyl (s)-1-(4-cinnamylpiperazine-1-yl carbonyl)-3-methylbutylcarbamate as a colorless amorphous substance (yield: 86%).

reactant | Tert-butoxycarbonyl-L-leucine monohydrate | 7.47 g | O.C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O
reactant | 1-cinnamylpiperazine | 6.06 g | C(C=CC1=CC=CC=C1)N1CCNCC1 | C13H18N2
reactant | tert-butyl (s)-1-(4-diphenylmethylpiperazine-1-yl carbonyl)-3-methylbutylcarbamate | C1(=CC=CC=C1)C(N1CCN(CC1)C(=O)[C@H](CC(C)C)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C28H39N3O3
product | tert-butyl (s)-1-(4-cinnamylpiperazine-1-yl carbonyl)-3-methylbutylcarbamate | 10.7 g, yield: 86% | C(C=CC1=CC=CC=C1)N1CCN(CC1)C(=O)[C@H](CC(C)C)NC(OC(C)(C)C)=O | C24H37N3O3
